US05508306
The solution of phenethylamine (344 mg, 2.84 mmol) in 20 ml of CH2Cl2 was first treated with the solution of 1,2,3,4-tetrahydro-2-naphthoyl chloride (2.83 mmol) in 2 ml of CH2Cl2 followed by treatment with 10 ml 10% K2CO3 solution. After stirred at r.t. overnight, the organic layer was separated and washed with 2N HCl, water, sat'd brine and dried over Na2SO4. Filtration and removal of solvent gave N-(2-phenylethyl) 1,2,3,4-tetrahydro-2-naphthoic amide as a white powder (793 mg, 100%); mp 86°-87° C.; Calcd for C19H21NO: C 81.67, H 7.59, N 5.01; Found: C 82.00, H 7.27, N 4.77.

reactant | phenethylamine | 2.84 mmol, 344 mg | C(CC1=CC=CC=C1)N | C8H11N
reactant | 1,2,3,4-tetrahydro-2-naphthoyl chloride | 2.83 mmol | C1C(CCC2=CC=CC=C12)C(=O)Cl | C11H11ClO
reactant | K2CO3 | 10 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N-(2-phenylethyl) 1,2,3,4-tetrahydro-2-naphthoic amide | 793 mg, 100% | C1(=CC=CC=C1)CCNC(=O)C1CC2=CC=CC=C2CC1 | C19H21NO
